US07276516B2
N-(4-Fluoro-benzyl)-4-(3-pyrazin-2-yl-indole-1-sulfonyl)-benzamide
Degas DMF with N2 for 30 minutes. Add 2-tributylstannyl pyrazine (0.214 g, 0.58 mmol), N-(4-fluoro-benzyl)-4-(3-iodo-indole-1-sulfonyl)-benzamide 0.300 g, 0.56 mmol) and tetrakis(triphenylphosphine)Pd(0) (0.100 g, 0.086 mmol) to DMF (5.0 ml). Heat and stir at 100° under N2 for 16 h. Pour the reaction mixture into H2O-EtOAc. Separate the EtOAc layer and extract several times with H2O, wash with brine, dry (MgSO4) and filter through celite. Remove the solvent on the rotary evaporator to give an oil. Chromatograph on the chromatron using a 1 mm plate and elute with 1% CH3OH—CH2Cl2 to give the title compound. Mass spectrum (m/e) (M+H) 487.1240; found: 487.1220.

reactant | 2-tributylstannyl pyrazine | 0.58 mmol, 0.214 g | C(CCC)[Sn](C1=NC=CN=C1)(CCCC)CCCC
reactant | N-(4-fluoro-benzyl)-4-(3-iodo-indole-1-sulfonyl)-benzamide | 0.56 mmol, 0.300 g | FC1=CC=C(CNC(C2=CC=C(C=C2)S(=O)(=O)N2C=C(C3=CC=CC=C23)I)=O)C=C1 | C22H16FIN2O3S
reactant | DMF | 5.0 ml | CN(C)C=O | C3H7NO
solvent | H2O EtOAc | O.CCOC(=O)C
product | N-(4-Fluoro-benzyl)-4-(3-pyrazin-2-yl-indole-1-sulfonyl)-benzamide | FC1=CC=C(CNC(C2=CC=C(C=C2)S(=O)(=O)N2C=C(C3=CC=CC=C23)C2=NC=CN=C2)=O)C=C1 | C26H19FN4O3S
